### PR TITLE
feat: equivalence between one-point compactification and projective line

### PR DESCRIPTION
**Pull request by bjoernkjoshanssen**
Adding equivalence between OnePoint K and projective line over K, as discussed at https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.E2.9C.94.20Projective.20extended.20real.20line/near/463620378

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 1]
```diff
@@ -0,0 +1,166 @@
...
+Copyright (c) 2024 Bjørn Kjos-Hanssen. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Bjørn Kjos-Hanssen
+-/
+import Mathlib.Data.Real.Basic
+import Mathlib.LinearAlgebra.Projectivization.Basic
+import Mathlib.Topology.Compactification.OnePoint
+
+/-!
+# OnePoint Compactification and Projectivization
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:11]: I just saw that `OnePoint` does the same: that could be fixed independently.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 2]
```diff
@@ -0,0 +1,166 @@
...
+This result is to be added in a different file.)
+
+## Main definitions
+
+* `divOnePoint`: Division on `K` taking values in `OnePoint K`.
+* `divSlope`: Lifting `divOnePoint` to a map `ℙ K (Fin 2 → K) → OnePoint K`.
+
+## Main results
+
+* `ℙ K (Fin 2 → K) ≃ OnePoint K`
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:28]: Can you mention this result's name, please?

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+-/
+
+
+open scoped LinearAlgebra.Projectivization OnePoint
+open Projectivization Classical
+
+/-!
+### Definition and basic properties
+
+In this section we define `divOnePoint` and prove that it lifts to `divSlope`.
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:42]: At this point, the reader has not seen `divOnePoint` and `divSlope` - can you tweak this explanation, please?

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 4]
```diff
@@ -0,0 +1,166 @@
...
+-/
+
+/-- A modified division from a `DivisionRing` to its `OnePoint` extension,
+so as to satisfy `1 ÷ 0 = ∞`. -/
+noncomputable def divOnePoint {K : Type} [DivisionRing K] (a : K) (r : K): OnePoint K :=
+  ite (r ≠ 0) (a / r) ∞
+
+/-- Uncurried version of `divOnePoint`, with nonzeroness assumption. -/
+noncomputable def divOnePoint' {K : Type} [DivisionRing K]
+  (u : {v : Fin 2 → K // v ≠ 0}) : OnePoint K :=
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:52]: Normally, I would speak about `{v : Fin 2 → K} (hv : v ≠ 0)`. Any reason you are not doing this here?

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 5]
```diff
@@ -0,0 +1,166 @@
...
+  if u.1 1 ≠ 0 then some (u.1 0 / u.1 1) else ∞
+
+/-- Notation `÷` showing that `div_onePoint` is distinct from
+the ordinary division `/` of a `DivisionRing`. -/
+infix:50 " ÷ " => divOnePoint
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:57]: Can you please mention this notation above, both in the module docstring and the definition of `divOnePoint`?

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 6]
```diff
@@ -0,0 +1,166 @@
...
+
+/-- `div_onePoint` can be lifted to the projective line (see `divSlope`.) -/
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:59]: `div_onePoint` does not exist: did you forget to adjust the comments when renaming?

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 7]
```diff
@@ -0,0 +1,166 @@
...
+/-- Equivalence between the projective line and the one-point extension. -/
+noncomputable def divSlope {K : Type} [Field K] (p : ℙ K (Fin 2 → K)) : OnePoint K :=
+  Quotient.lift (fun u => divOnePoint (u.1 0) (u.1 1)) divOnePoint_lifts p
+
+/-! ### Equivalence
+We establish the equivalence between `OnePoint K` and `ℙ K (Fin 2 → K)` for a field `K`.
+-/
+
+/-- In a nonzero pair, if one coordinate is 0 then the other is nonzero. -/
+lemma not_both_zero {K : Type} [Zero K]
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:85]: As an example: you could rewrite this lemma, using just `v : Fin 2 → K` as
```
lemma not_both_zero {K : Type} [Zero K] {v : Fin 2 → K} (hv : v ≠ 0) (h : v 1 = 0) : v 0 ≠ 0 := by
  by_contra h'
  have : v = 0 := by
    ext s
    cases (Nat.le_one_iff_eq_zero_or_eq_one.mp (Fin.is_le s)) with
    |inl h'' => rw [Fin.eq_of_val_eq (j := 0) h'']; exact h'
    |inr h'' => rw [Fin.eq_of_val_eq (j := 1) h'']; exact h
  exact hv this

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 8]
```diff
@@ -0,0 +1,166 @@
...
+  · use Units.mk ((a.1 1) / (b.1 1)) ((b.1 1) / (a.1 1)) (by field_simp) (by field_simp)
+    ext s
+    cases (Nat.le_one_iff_eq_zero_or_eq_one.mp (Fin.is_le s)) with
+    |inl hl =>
+      have : s = 0 := Fin.eq_of_val_eq hl
+      subst this; simp_all only [ne_eq, Fin.val_zero, Pi.smul_apply, Units.smul_mk_apply,
+        smul_eq_mul];field_simp
+      have h' : (a.1 0 / a.1 1) = (b.1 0 / b.1 1) := by
+        apply Option.some_injective; tauto
+      field_simp at h';rw [h',mul_comm]
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:119]: A style nitpick: mathlib style puts a space after comma and semicolon, so this would be `field_simp at h'; rw [h', mul_comm]`.
(Also, semicolons are used sparingly: tactic calls *can* be put on the same line if they really logically belong together. But this should be intentional.)

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 9]
```diff
@@ -0,0 +1,166 @@
...
+    |inr hr =>
+      have : s = 1 := Fin.eq_of_val_eq hr
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:121]: This can be simplified, as `simp_all [Fin.eq_of_val_eq (j := 1) hr]` (also in a few more places above and below).

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 10]
```diff
@@ -0,0 +1,166 @@
...
+      subst this; simp_all
+  · simp at h
+  · simp at h
+  · simp_all only [ne_eq, Decidable.not_not]
+    have h₀ : a.1 0 ≠ 0 := by apply not_both_zero;tauto
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:126]: If you change `not_both_zero` as above, this `have` can be simplified to `not_both_zero a.2 g₀`

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 11]
```diff
@@ -0,0 +1,166 @@
...
+    have h₁ : b.1 0 ≠ 0 := by apply not_both_zero;tauto
+    use Units.mk ((a.1 0) / (b.1 0)) ((b.1 0) / (a.1 0)) (by field_simp) (by field_simp)
+    simp only [ne_eq, Fin.isValue, Units.smul_mk_apply]
+    apply List.ofFn_inj.mp; simp only [Fin.isValue, List.ofFn_succ, Pi.smul_apply, smul_eq_mul,
+      Fin.succ_zero_eq_one, List.ofFn_zero, List.cons.injEq, and_true]
+    rw [g₀,g₂]; field_simp
+
+/-- Over any field `K`, `divSlope` is injective. -/
+lemma divSlope_injective {K : Type} [Field K] : Function.Injective (@divSlope K _) :=
+  Quotient.ind (λ a ↦ Quotient.ind (divSlope_inj_lifted a))
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:136]: Mathlib style is this:
```suggestion
  Quotient.ind (fun a ↦ Quotient.ind (divSlope_inj_lifted a))

Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:136]: Mathlib style is this:
```suggestion
  Quotient.ind (fun a ↦ Quotient.ind (divSlope_inj_lifted a))

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 12]
```diff
@@ -0,0 +1,166 @@
...
+  have g₀ :       divOnePoint' ⟨![(1:K), 0], by simp⟩ = ∞  := by unfold divOnePoint';simp
+  have g₁ (t:K) : divOnePoint' ⟨![t, 1], by simp⟩ = some t := by unfold divOnePoint';simp
+  cases a with
+  |none => exact g₀
+  |some t => exact g₁ t
+
+/-- `divSlope` is surjective. -/
+lemma divSlope_surjective {K : Type} [Field K]:
+    Function.Surjective (@divSlope K _) :=
+  λ r ↦ ⟨slope_inv r, divSlope_inv r⟩
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:156]: Also here, use `fun` instead of `λ `, please.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean [hunk 13]
```diff
@@ -0,0 +1,166 @@
...
+
+/-- An equivalence between the one-point extension of a field `K`
+and the projective line over `K`. -/
+noncomputable instance divSlope_equiv {K : Type} [Field K] :
```
Comment (grunweg) [inline Mathlib/Topology/Compactification/OnePointEquiv.lean:160]: You can fix the error by making this a `noncomputable def` instead.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:52]: The same applies to most lemmas below. I checked a few of them; my impression is that the proof can always be fixed. Can you try to adapt your lemmas and proofs - feel free to ask on zulip in case you need help fixing the proofs!

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 14]
```diff
@@ -1228,8 +1228,10 @@ theorem tendsto_ae_map {f : α → β} (hf : AEMeasurable f μ) : Tendsto f (ae
 /-- Pullback of a `Measure` as a linear map. If `f` sends each measurable set to a measurable
 set, then for each measurable set `s` we have `comapₗ f μ s = μ (f '' s)`.
 
+Note that if `f` is not injective, this definition assigns `Set.univ` measure zero.
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:1231]: I like these changes, but they modify a completely different file. Can you remove them from this PR? Feel free to submit a new PR with them; if you @mention me, I will do my best to review it quickly.

**Review by grunweg — COMMENTED** [review]
Thanks for your contribution and welcome to mathlib!
I left a few comments, mostly about coding style. (It is completely normal that the first rounds of PR review center on this.) Please take a look, and remove the `awaiting-author` label once you have incorporated these comments.

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 4 above)
Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:52]: Thanks @grunweg for all the comments!
In my mind I was following the [projectivization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Projectivization/Basic.html#projectivizationSetoid) definitions.
Also, compare
`(a b : {v : Fin 2 → K // v ≠ 0})`
versus
`(a b : Fin 2 → K) (ha : a ≠ 0) (hb : b ≠ 0)`.
In the first line the reader doesn't have to visually verify that the assumptions on `a` and `b` are indeed the same. It's basically the "Don't repeat yourself" (DRY) software principle.
What do you think?

(For just one variable I am fine with changing it from
`(a : {v : Fin 2 → K // v ≠ 0})`
to
`(a : Fin 2 → K) (ha : a ≠ 0)`; it seems both have their advantages.)

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean (hunk 14 above)
Comment (bjoernkjoshanssen) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean:1231]: Oops, these changes were part of an earlier PR that was approved. Didn't mean to include them again! Maybe what happened was that I wrote
`git switch -c bjoernkjoshanssen_measure_comap_injectivity`
back in July and I wrote
`git switch -c bjoernkjoshanssen_onepoint`
yesterday, but I should have done
`git switch -c master`
in between?

Comment (grunweg) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean:1231]: That sounds plausible; running `git switch -c branchname` creates a new branch based on the branch you currently have checked out. Switching to `master` before running this ensures your branch is based on master (which is what you want here).
(Sometimes, the other behaviour, branching your branch on top of an existing branch, is precisely what you want. It depends.)

File: Mathlib/Topology/Compactification/OnePointEquiv.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:52]: About the DRY thing: I understand your point; my personal preference is more towards `{a b : Fin 2 → K} (ha : a ≠ 0) (hb : b ≠ 0)`, the arguments `a` and `b` being implicit.
One detail to take into account could be how this lemma will be used: is it used with `v` or with `a` and `ha`?

Comment (bjoernkjoshanssen) [reply Mathlib/Topology/Compactification/OnePointEquiv.lean:52]: OK I can go either way... In what I'm doing the lemma will be used with `v` in the sense that we are carrying around nonzero vectors, rather than carrying around vectors that may or may not be nonzero. Not sure if that answers your question.

**Comment by bjoernkjoshanssen** [comment]
Closing this, as it had a git branching issue and was replaced by https://github.com/leanprover-community/mathlib4/pull/16152
